US05952519
reacting the 3-methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-1,2,4-pentatrienylphosphonic acid, diethyl ester with ammonium formate or a trialkylammonium formate to form 3-methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-2,4-pentadienylphosphonic acid, diethyl ester; and

reactant | 3-methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-1,2,4-pentatrienylphosphonic acid, diethyl ester | CC(=C=CP(OCC)(OCC)=O)C=CC1=C(C(CCC1(C)C)=O)C | C19H29O4P
reactant | ammonium formate | C(=O)[O-].[NH4+]
product | 3-methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-2,4-pentadienylphosphonic acid, diethyl ester | CC(=CCP(OCC)(OCC)=O)C=CC1=C(C(CCC1(C)C)=O)C | C19H31O4P
